US05192797
4.1. Ethyl naphthalene-1-acetate
100 g (537 mmol) of naphthalene-1-acetic acid in 200 ml of absolute ethanol are heated to 60° C., while stirring, and 80 ml of thionyl chloride are added slowly in such a way that reflux occurs. Reflux is maintained for 6 h, and the solvent is then evaporated under reduced pressure. The residue is taken up with 200 ml of dichloromethane, the solution is washed with a saturated solution of sodium hydrogen carbonate and then with water, dried over magnesium sulphate and filtered, and the solvent is evaporated under reduced pressure. 104 g (485 mmol) of product are obtained in the form of an oil. n25D =1.5800.

reactant | naphthalene-1-acetic acid | 537 mmol, 100 g | C1(=CC=CC2=CC=CC=C12)CC(=O)O | C12H10O2
reactant | thionyl chloride | 80 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | Ethyl naphthalene-1-acetate | 485 mmol, 104 g | C1(=CC=CC2=CC=CC=C12)CC(=O)OCC | C14H14O2
